US04780452
7-Chloro-3H-imidazo[4,5-b]pyridine-4-oxide
7-Chloro-3H-imidazo[4,5-b]pyridine (15 g, 97.7 mMol) was dissolved in 150 mL of glacial acetic acid and m-chloroperbenzoic acid (23 g, 131 mMol) was added in portions to the stirred solution. After 12 hours the solid was isolated and washed with ether. The solid was suspended in 400 mL of hot ethanol, stirred, and isolated. The product, 7-chloro-3H-imidazo[4,5-b]pyridine-4-oxide, was dried in vacuo. Yield 14.98 g (8.83 mMol, 90.4%); m.p. 200° C. (dec).

reactant | 7-Chloro-3H-imidazo[4,5-b]pyridine | 97.7 mMol, 15 g | ClC1=C2C(=NC=C1)NC=N2 | C6H4ClN3
reactant | m-chloroperbenzoic acid | 131 mMol, 23 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 7-Chloro-3H-imidazo[4,5-b]pyridine-4-oxide | ClC1=C2C(=[N+](C=C1)[O-])NC=N2 | C6H4ClN3O
